US05780470
A mixture of (6-methoxy-indan-1-yl)piperazine (2.3 g, 10 mmol) and (1S)-(+)-10-camphorsulfonic acid (2.3 g, 10 mmol) was recrystallized from ethanol-water until the crystal attained a constant melting point yielding (-)-(6-methoxy-indan-1-yl)piperazine (1S)-10-camphorsulfonic acid salt (22%, mp: 234.5°-234° C., [α]25D -36.3°). Calc'd for C14H20N2O2.C10 H10O4S: C, 62.04%; H, 7.81%; N, 6.03%. Found: C, 62.01%; H, 7.96; N, 5.97%.

reactant | (6-methoxy-indan-1-yl)piperazine | 10 mmol, 2.3 g | COC1=CC=C2CCC(C2=C1)N1CCNCC1 | C14H20N2O
reactant | (1S)-(+)-10-camphorsulfonic acid | 10 mmol, 2.3 g | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
product | (-)-(6-methoxy-indan-1-yl)piperazine (1S)-10-camphorsulfonic acid salt | 22% | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O.COC2=CC=C1CCC(C1=C2)N2CCNCC2 | InChI=1S/C14H20N2O.C10H16O4S/c1-17-12-4-2-11-3-5-14(13(11)10-12)16-8-6-15-7-9-16;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h2,4,10,14-15H,3,5-9H2,1H3;7H,3-6H2,1-2H3,(H,12,13,14)/t;7?,10-/m.1/s1
